simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vclk (capture_tick 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=5n period=12n
Vvin (external_drive 0) vsource type=pwl wave=[ 0 0.1 10n 0.8 30n 0.2 55n 0.75 90n 0.3 120n 0.85 ]

XDUT (external_drive capture_tick vdd vss capture_level) v2_sample_hold_latched_level_002

tran tran stop=120n maxstep=500p
save external_drive capture_tick capture_level
